US06951856B2
A solution of 18.90 g of 2-(4-chloro-phenyl)-malonic acid dimethyl ester in 200 ml of methanol was added dropwise at 0° C. to a solution of 14.60 g sodium methylate in 150 ml of methanol. The mixture was stirred for 1 h at 0° C. before 7.66 g of formamidine hydrochloride was added. The suspension was stirred at rt for 20 h. The solvent was removed and the residue was suspended in 200 ml 2 N aq. HCl. The pH of the suspension was carfully adjusted to 4-5 by adding 20 ml of 10 M NaOH, stirring was continued for 30 min. The white precipitate was collected, washed with water and diethyl ether and dried to give 16.44 g of 5-(4-chlorophenyl)-pyrimidine-4,6-diol as a white powder. LC-MS: tR=2.75 min, [M+H]+=222.96 (ES+), [M−H]−=220.92 (ES−).

reactant | 2-(4-chloro-phenyl)-malonic acid dimethyl ester | 18.90 g | COC(C(C(=O)OC)C1=CC=C(C=C1)Cl)=O | C11H11ClO4
reactant | sodium methylate | 14.60 g | C[O-].[Na+]
reactant | formamidine hydrochloride | 7.66 g | Cl.C(=N)N
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 5-(4-chlorophenyl)-pyrimidine-4,6-diol | 16.44 g | ClC1=CC=C(C=C1)C=1C(=NC=NC1O)O | C10H7ClN2O2
